US07919628B2
To 0.190 g of 4-fluoro-1-hydroxynaphthalene-2-carboxylic acid methyl ester in 4 ml of dry DMF 560 mg of Cesium carbonate and 31 mg of potassium iodide was added. The mixture was stirred at ambient temperature for 20 minutes after which was added a solution of 0.31 g of 4-(trifluoromethyl)benzyl bromide in 2 ml of DMF. The mixture was stirred at room temperature for 3 h, poured into saturated sodium bicarbonate, extracted with ethyl acetate, washed with water, brine, dried (sodium sulphate), filtered and concentrated to a white solid. The material was purified by flash chromatography on silica gel eluting with ethyl acetate/heptanes to provide 0.231 g of 4-fluoro-1-[4-(trifluoromethyl)benzyloxy]naphthalene-2-carboxylic acid methyl ester as a white solid.

reactant | 4-fluoro-1-hydroxynaphthalene-2-carboxylic acid methyl ester | 0.190 g | COC(=O)C1=C(C2=CC=CC=C2C(=C1)F)O | C12H9FO3
reactant | Cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 31 mg | [I-].[K+]
reactant | 4-(trifluoromethyl)benzyl bromide | 0.31 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 4 ml, 560 mg | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-fluoro-1-[4-(trifluoromethyl)benzyloxy]naphthalene-2-carboxylic acid methyl ester | 0.231 g | COC(=O)C1=C(C2=CC=CC=C2C(=C1)F)OCC1=CC=C(C=C1)C(F)(F)F | C20H14F4O3
